US08492378B2
2-fluoro-N-methyl-4-[5-(5-methyl-1,3,4-oxadiazol-2-yl)-1-benzofuran-3-yl]benzamide
In the same manner as in Example 117 and using 2-fluoro-4-[5-(5-methyl-1,3,4-oxadiazol-2-yl)-1-benzofuran-3-yl]benzoic acid instead of 3-[5-(2,3-dihydro-1-benzofuran-5-yl)-1,3,4-oxadiazol-2-yl]propionic acid and 2M methylamine-tetrahydrofuran solution instead of N,O-dimethylhydroxyamine hydrochloride, the title compound (yield 54%) was obtained as pale-yellow crystals.

reactant | 2-fluoro-4-[5-(5-methyl-1,3,4-oxadiazol-2-yl)-1-benzofuran-3-yl]benzoic acid | FC1=C(C(=O)O)C=CC(=C1)C1=COC2=C1C=C(C=C2)C=2OC(=NN2)C | C18H11FN2O4
reactant | methylamine tetrahydrofuran | 2M | CN.O1CCCC1
product | 2-fluoro-N-methyl-4-[5-(5-methyl-1,3,4-oxadiazol-2-yl)-1-benzofuran-3-yl]benzamide | yield 54% | FC1=C(C(=O)NC)C=CC(=C1)C1=COC2=C1C=C(C=C2)C=2OC(=NN2)C | C19H14FN3O3
